US09216992B2
(E)-2-Methyl-3-(4-phenyl-thiophen-2-yl)-acrylic acid
A 50 ml round bottomed flask was charged with diethylphosphite (684 μl, 5.31 mmol) and treated sequentially with sodium hydride (637 mg, 15.94 mmol, 60% in mineral oil) in DME (20 ml), followed by 2-bromopropionic acid (478 μl, 5.31 mmol). The reaction was stirred at room temperature until hydrogen evolution ceased. Next 4-phenyl-2-thiophenecarboxaldehyde (1.0 g, 5.31 mmol) was added and the reaction stirred for 1 h. The reaction was quenched by the addition of EtOH (5 ml) and the contents of the flask poured into distilled water (20 ml). The strongly basic solution was washed with diethyl ether (25 ml) to remove traces of mineral oil, the aqueous layer acidified to pH 4 with concentrated HCl and extracted with diethyl ether (2×25 ml). The organic layer was dried (MgSO4) and the solvent removed in vacuo. The crude residue was washed with petroleum spirit 40-60° C., and the resulting insoluble solid, fractionally crystallized from dichloromethane to afford the title compound as a white solid (335.2 mg, 29%).

reactant | diethylphosphite | 5.31 mmol, 684 μl | C(C)OP(OCC)[O-]
reactant | sodium hydride | 15.94 mmol, 637 mg | [H-].[Na+]
reactant | 2-bromopropionic acid | 5.31 mmol, 478 μl | BrC(C(=O)O)C | C3H5BrO2
reactant | hydrogen | [H][H] | H2
reactant | 4-phenyl-2-thiophenecarboxaldehyde | 5.31 mmol, 1.0 g | C1(=CC=CC=C1)C=1C=C(SC1)C=O | C11H8OS
solvent | DME | 20 ml | COCCOC | C4H10O2
product | (E)-2-Methyl-3-(4-phenyl-thiophen-2-yl)-acrylic acid | 335.2 mg, 29% | C/C(/C(=O)O)=C\C=1SC=C(C1)C1=CC=CC=C1 | C14H12O2S
